US07790728B2
6-(3-Fluorophenyl)pyrazin-2-amine
To a stirred solution of 2-amino-6-chloropyrazine (2.0 g, 15.43 mmol) in a mixture of toluene (90 mL) and ethanol (8.5 mL) was added 3-fluorophenyl boronic acid (2.60 g, 18.51 mmol) and a 2M aqueous solution of sodium carbonate (16.2 mL, 32.40 mmol). The mixture was subjected to three cycles of evacuation-backfilling with argon, and tetrakis(triphenylphosphine)palladium (0.713 g, 0.617 mmol) was added. The mixture was subjected again to three cycles of evacuation-backfilling with argon the flask was capped and placed in a 110° C. oil bath. After 4 h, the mixture was cooled, partitioned between dichloromethane and water the organic layer was washed with brine, dried (MgSO4) and evaporated. The residue was purified by silica gel flash chromatography (33% ethyl acetate in hexanes to 50% ethyl acetate in hexanes). Concentration in vaccuo of the product-rich fractions provided the titled compound (2.79 g, 95%) as a yellowish solid (2.79 g, 95%).

reactant | 2-amino-6-chloropyrazine | 15.43 mmol, 2.0 g | NC1=NC(=CN=C1)Cl | C4H4ClN3
reactant | 3-fluorophenyl boronic acid | 18.51 mmol, 2.60 g | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
reactant | sodium carbonate | 32.40 mmol, 16.2 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 90 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 8.5 mL | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium | 0.617 mmol, 0.713 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-(3-Fluorophenyl)pyrazin-2-amine | 2.79 g | FC=1C=C(C=CC1)C1=CN=CC(=N1)N | C10H8FN3
